US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(4-amino-3,5-dibromophenylamino)-propylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane and 3-(4-amino-3,5-dibromophenylamino)-propylamine analogously to Example 1.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 3-(4-amino-3,5-dibromophenylamino)-propylamine | NC1=C(C=C(C=C1Br)NCCCN)Br | C9H13Br2N3
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(4-amino-3,5-dibromophenylamino)-propylamine | COC1=CC2=C(CC(N(CC2)CCCNCCCNC2=CC(=C(C(=C2)Br)N)Br)=O)C=C1OC | C24H32Br2N4O3
